US07247646B2
D. 4-(4-(2-Bromoethoxy)-benzyl)-3-(2,4-dichlorophenyl)-7-hydroxy-chromen-2-one
A mixture of 4-(4-(2-bromoethoxy)-benzyl)-3-(2,4-dichlorophenyl)-7-methoxy-chromen-2-one (4.0 g, 7.49 mmol), AlCl3 (5.89 g, 44.2 mmol), and EtSH (2.77 mL, 37.4 mmol) in CH2Cl2 (200 mL) was stirred at room temperature for 2.5 h. The mixture was slowly poured into CH2Cl2/sat. aq NaHCO3. The resultant layers were separated, and the aqueous phase was further extracted with CH2Cl2 (3×). The aqueous layer was raised to pH 10 with aqueous 2M NaOH and extracted with AcOEt (3×). Each organic layer was washed with brine and dried (MgSO4), and the combined organic phases were concentrated in vacuo. The resultant residue was purified using flash chromatography (250 g silica gel, 95:5→9:1 CH2Cl2:AcOEt) to afford the title compound, which was isolated as an off-white solid (3.454 g, 89%). 1H NMR (300 MHz, CDCl3) δ 7.50 (d, J=2.0 Hz, 1H), 7.42 (d, J=8.8 Hz, 1H), 7.25 (dd, J=2.0, 8.0 Hz, 1H), 7.12 (d, J=8.0 Hz, 1H), 6.99 (d, J=2.0 Hz, 1H), 6.94 (d, J=8.5 Hz, 2H), 6.78 (d, J=8.5 Hz, 2H), 6.73 (dd, J=2.0, 8.8 Hz, 1H), 6.61–6.49 (br signal, 1H), 4.23 (t, J=6.0 Hz, 2H), 4.04 (d, J=15.5 Hz, 1H), 3.78 (d, J=15.5 Hz, 1H), 3.61 (t, J=6.0 Hz, 2H); MS (ESI) m/z 516.9 (M−H)−; HPLC tR 7.41 min.

reactant | 4-(4-(2-bromoethoxy)-benzyl)-3-(2,4-dichlorophenyl)-7-methoxy-chromen-2-one | 7.49 mmol, 4.0 g | BrCCOC1=CC=C(CC2=C(C(OC3=CC(=CC=C23)OC)=O)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C25H19BrCl2O4
reactant | AlCl3 | 44.2 mmol, 5.89 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | EtSH | 37.4 mmol, 2.77 mL | CCS | C2H6S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(2-Bromoethoxy)-benzyl)-3-(2,4-dichlorophenyl)-7-hydroxy-chromen-2-one | BrCCOC1=CC=C(CC2=C(C(OC3=CC(=CC=C23)O)=O)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C24H17BrCl2O4
